ad_Simu_Test
*SPICE Netlist generated by Advanced Sim server on 2019/2/28 18:06:52

*Schematic Netlist:
C1 A OUT 112pF CAP
C2 VSS B 56pF CAP
R1 IN A 100K RES
R2 A B 100K RES
XU1 OUT B VSS VCC OUT LF411
VDD VCC 0 5V
VIN IN 0 DC 0 SIN(0 5 50K 0 0 0) AC 1 0
VSS VSS 0 -5V

.SAVE 0 A B IN OUT VCC VSS VDD#branch VIN#branch VSS#branch @VDD[z] @VIN[z]
.SAVE @VSS[z] @C1[i] @C2[i] @R1[i] @R2[i] @C1[p] @C2[p] @R1[p] @R2[p] @VDD[p] @VIN[p]
.SAVE @VSS[p]

*PLOT AC -1 1 A=IN A=OUT
*PLOT TRAN -1 1 A=IN A=OUT
*PLOT OP -1 1 A=IN A=OUT

.OPTION KeepLastSetup=False
*Selected Circuit Analyses:
.AC DEC 100 0.1 1E6
.TRAN 1E-7 6E-5 0 2E-7 UIC
.OP

*Models and Subcircuits:
.MODEL CAP C()

.MODEL RES R()

.SUBCKT LF411     1   2  99  50  28
* PINOUT ORDER +IN -IN V+ V- OUT
*Features:
*Fast settling time (.01%) =           2uS
*High bandwidth =                     3MHz
*High slew rate =                   10V/uS
*Low offset voltage =                 .5mV
*Low supply current =                1.8mA
****************INPUT STAGE**************
IOS 2 1 25.0P
*^Input offset current
CI1 1 0 3P
CI2 2 0 3P
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 1.0M
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 650
R4 6 50 650
*Fp2=28 MHZ
C4 5 6 4.372P
***********COMMON MODE EFFECT***********
I2 99 50 800UA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 .8E-3 1
*Input offset voltage.^
R8 99 49 80K
R9 49 50 80K
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
**************SECOND STAGE**************
EH 99 98 99 49 1
G1 98 9 5 6 20E-3
R5 98 9 10MEG
VA3 9 11 0
*Fp1=18 HZ
C3 98 11 857.516P
***************POLE STAGE***************
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.305E-15
*********COMMON-MODE ZERO STAGE*********
G4 98 16 3 49 1E-8
L2 98 17 144.7M
R13 17 16 1K
**************OUTPUT STAGE**************
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 50
V5  28 25 0.646V
D4  25 15 DX
V4  24 28 0.646V
D3  15 24 DX
***************MODELS USED**************
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.183E-3 VTO=-.65 IS=50E-12)
.ENDS LF411

.END
