simulateTest
*SPICE Netlist generated by Advanced Sim server on 2021-11-02 17:44:47

*Schematic Netlist:
C1 NetC1_1 OUT6 100nF
C2 IN NetC2_2 100pF
C3 0 A 470pF
C4 A NetC4_2 470pF
G1 V- V+ IN 0 0.02
.IC V(A)=1
R1 NetR1_1 IN 100K
R2 OUT1 NetR1_1 100K
R3 NetR3_1 OUT2 100K
R4 NetR3_1 0 100K
R5 NetR5_1 0 100K
R6 NetR5_1 OUT3 100K
R7 NetR7_1 IN2 100K
R8 NetR7_1 IN3 100K
R9 OUT4 NetR9_2 100K
R10 NetR9_2 IN2 100K
R11 NetR9_2 IN3 100K
R12 NetC1_1 IN 10K
R13 OUT7 NetC2_2 100K
R14 NetR14_1 NetR14_2 10K
R15 NetR14_2 OUT8 10K
R16 NetR14_1 NetR16_2 10K
R17 NetR16_2 NetR17_2 20K
R18 NetR17_2 NetR18_2 10K
R19 NetR18_2 NetR19_2 10K
R20 NetR19_2 0 10K
R21 NetR21_1 OUT5 100K
R22 IN2 NetR21_1 100K
R23 NetR23_1 IN3 100K
R24 NetR23_1 0 100K
R25 NetR25_1 OUT9 22K
R26 V- NetR25_1 10K
R27 V- V+ 100
R28 V+ NetR28_2 10K
R29 NetR28_2 0 22K
R30 B 0 10K
R31 OUT10 B 20K
R32 A 0 10K
R33 OUT10 NetC4_2 10K
XU1 0 NetR1_1 VDD12 VSS12 OUT1 LF411
XU2 IN NetR3_1 VDD12 VSS12 OUT2 LF411
XU3 NetR7_1 NetR5_1 VDD12 VSS12 OUT3 LF411
XU4 0 NetR9_2 VDD12 VSS12 OUT4 LF411
XU5 0 NetC1_1 VDD12 VSS12 OUT6 LF411
XU6 0 NetC2_2 VDD12 VSS12 OUT7 LF411
XU7 IN2 NetR16_2 VDD12 VSS12 NetR14_1 LF411
XU8 NetR19_2 NetR14_2 VDD12 VSS12 OUT8 LF411
XU9 IN3 NetR17_2 VDD12 VSS12 NetR18_2 LF411
XU10 NetR23_1 NetR21_1 VDD12 VSS12 OUT5 LF411
XU11 NetR28_2 NetR25_1 VDD12 VSS12 OUT9 LF411
XU12 A B VDD15 VSS15 OUT10 LF411
VDD5 VDD5 0 5V
VDD12 VDD12 0 12V
VDD15 VDD15 0 15V
VIN IN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0
VIN2 IN2 0 DC 0 SIN(0 2 1K 0 0 0) AC 1 0
VIN3 IN3 0 DC 0 SIN(0 3 1K 0 0 0) AC 1 0
VP INP 0 DC 0 PULSE(0 1 0 1p 1p 500u 1m 0) AC 1 0
VSS5 VSS5 0 -5V
VSS12 VSS12 0 -12V
VSS15 VSS15 0 -15V

.SAVE A B OUT10

*PLOT TRAN -1 1 A=A A=B A=OUT10
*PLOT OP -1 1 A=A A=B A=OUT10

.OPTION KeepLastSetup=False
*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.OP

*Models and Subcircuits:
.SUBCKT LF411     1   2  99  50  28
* PINOUT ORDER +IN -IN V+ V- OUT
*Features:
*Fast settling time (.01%) =           2uS
*High bandwidth =                     3MHz
*High slew rate =                   10V/uS
*Low offset voltage =                 .5mV
*Low supply current =                1.8mA
****************INPUT STAGE**************
IOS 2 1 25.0P
*^Input offset current
CI1 1 0 3P
CI2 2 0 3P
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 1.0M
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 650
R4 6 50 650
*Fp2=28 MHZ
C4 5 6 4.372P
***********COMMON MODE EFFECT***********
I2 99 50 800UA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 .8E-3 1
*Input offset voltage.^
R8 99 49 80K
R9 49 50 80K
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
**************SECOND STAGE**************
EH 99 98 99 49 1
G1 98 9 5 6 20E-3
R5 98 9 10MEG
VA3 9 11 0
*Fp1=18 HZ
C3 98 11 857.516P
***************POLE STAGE***************
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.305E-15
*********COMMON-MODE ZERO STAGE*********
G4 98 16 3 49 1E-8
L2 98 17 144.7M
R13 17 16 1K
**************OUTPUT STAGE**************
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 50
V5  28 25 0.646V
D4  25 15 DX
V4  24 28 0.646V
D3  15 24 DX
***************MODELS USED**************
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.183E-3 VTO=-.65 IS=50E-12)
.ENDS LF411

.END
